US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide hydrochloride (Examples 4 and 5)
Chlorotrimethylsilane (0.06 ml, 0.48 mmol) was added to a solution of the more polar diastereoisomer of 2-(4-dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide (133 mg, 0.32 mmol) in ethyl methyl ketone (5 ml) and the mixture was stirred at RT for 1.5 h. The hydrochloride (Example 5) (66 mg, 46%) thereby precipitated out as a colourless solid with an m.p. of 182-186° C.

reactant | Chlorotrimethylsilane | 0.48 mmol, 0.06 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-(4-dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide | 0.32 mmol, 133 mg | CN(C1(CCC(CC1)=CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | C27H33N3O
solvent | ethyl methyl ketone | 5 ml | CC(=O)CC | C4H8O
product | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide hydrochloride | Cl.CN(C1(CCC(CC1)=CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | InChI=1S/C27H33N3O.ClH/c1-20(17-22-19-28-25-12-8-7-11-24(22)25)29-26(31)18-21-13-15-27(16-14-21,30(2)3)23-9-5-4-6-10-23;/h4-12,18-20,28H,13-17H2,1-3H3,(H,29,31);1H
